US09340537B2
Stage 61.1 1-Benzyl 6-tert-butyl 1,6-diazaspiro[3.5]nonane-1,6-dicarboxylate
A solution of benzyl chloroformate (0.148 mL, 1.039 mmol) in DCM (1 mL) was added to a mixture of tert-butyl-1,6-diazaspiro[3.5]nonane-6-carboxylate (200 mg, 0.866 mmol) and DIPEA (0.378 mL, 2.165 mmol) in DCM (3 mL) and the mixture was stirred at RT for 16 h. The solvent was evaporated off under reduced pressure and the crude product was purified by flash chromatography (Silica gel column, 4 g, n-hexane/DCM from 20% to 100% DCM) to give the title product as a yellow resin. UPLC-MS (Condition 3) tR=1.21 min, m/z=361.1 [M+H]+.

reactant | benzyl chloroformate | 1.039 mmol, 0.148 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | tert-butyl-1,6-diazaspiro[3.5]nonane-6-carboxylate | 0.866 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CC2(CCN2)CCC1 | C12H22N2O2
reactant | DIPEA | 2.165 mmol, 0.378 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-Benzyl 6-tert-butyl 1,6-diazaspiro[3.5]nonane-1,6-dicarboxylate | N1(CCC12CN(CCC2)C(=O)OC(C)(C)C)C(=O)OCC2=CC=CC=C2 | C20H28N2O4
